US08648087B2
Step F: Preparation of tert-butyl 4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-chloro-2-fluorobenzoate:
A vial charged with tert-butyl 3-chloro-2,4-difluorobenzoate (0.210 g, 0.845 mmol), [1,2,4]triazolo[1,5-a]pyridin-7-ol (0.114 g, 0.845 mmol), cesium carbonate (0.413 g, 1.27 mmol), and DMF (1.7 ml). The reaction was heated to 80° C. for 12 hours, then poured into ice water. The resulting solids were collected by filtration and purified by flash chromatography, eluting with gradient of 10% EtOAc/Hexanes to 50% EtOAc/Hexanes to provide the desired product.

reactant | tert-butyl 3-chloro-2,4-difluorobenzoate | 0.845 mmol, 0.210 g | ClC=1C(=C(C(=O)OC(C)(C)C)C=CC1F)F | C11H11ClF2O2
reactant | [1,2,4]triazolo[1,5-a]pyridin-7-ol | 0.845 mmol, 0.114 g | N=1C=NN2C1C=C(C=C2)O | C6H5N3O
reactant | cesium carbonate | 1.27 mmol, 0.413 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 1.7 ml | CN(C)C=O | C3H7NO
product | tert-butyl 4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-chloro-2-fluorobenzoate | N=1C=NN2C1C=C(C=C2)OC2=C(C(=C(C(=O)OC(C)(C)C)C=C2)F)Cl | C17H15ClFN3O3
